US05158943
Oxalyl chloride (11.3 g) and DMF (3 drops) were successively added dropwise to a solution of 2-(carboxy)(phenyl)methylthio-3-(4-methylphenyl)propionate (25.5 g) in tetrahydrofuran (THF) (150 ml), followed by stirring for 1.5 hours at room temperature and concentrated under reduced pressure. The residual oil was dissolved in dichloromethane (50 ml). The solution was added dropwise to a suspension of aluminum chloride (AlCl3)(21.7 g) and dichloromethane (200 ml) with ice-cooling. The reaction mixture was stirred for 2 hours with ice-cooling and poured into ice-water. The dichloromethane layer was separated, washed with water, dried (MgSO4) and distilled off to give crystals of methyl trans-7-methyl-5-oxo-4-phenyl-1,2,4,5-tetrahydro-3-benzothiepine-2-carboxylate (7.2 g, 30%). Recrystallization from ethyl acetate-hexane gave colorless prisms.

reactant | Oxalyl chloride | 11.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(carboxy)(phenyl)methylthio-3-(4-methylphenyl)propionate | 25.5 g | C(=O)(O)C(C(=O)[O-])(CC1=CC=C(C=C1)C)SCC1=CC=CC=C1
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | methyl trans-7-methyl-5-oxo-4-phenyl-1,2,4,5-tetrahydro-3-benzothiepine-2-carboxylate | 7.2 g, 30% | CC1=CC2=C(C[C@@H](S[C@H](C2=O)C2=CC=CC=C2)C(=O)OC)C=C1 | C19H18O3S
